US08030487B2
Synthesis of 3-(3-(Trifluoromethyl)Benzamido)Benzoic Acid (Intermediate 5)
To a stirring solution of 3-aminobenzoic acid (1.1 g, 7.9 mmol) in anhydrous THF (20 mL), 3-(trifluoromethyl)benzoyl chloride (2.0 g, 9.6 mmol) was added slowly. The mixture was stirred at room temperature under argon for overnight. The solvent was removed under reduced pressure and re-crystallized from chloroform to afford the title compound as a white solid (1.2 g, 49%).

reactant | 3-aminobenzoic acid | 7.9 mmol, 1.1 g | NC=1C=C(C(=O)O)C=CC1 | C7H7NO2
reactant | 3-(trifluoromethyl)benzoyl chloride | 9.6 mmol, 2.0 g | FC(C=1C=C(C(=O)Cl)C=CC1)(F)F | C8H4ClF3O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-(3-(Trifluoromethyl)Benzamido)Benzoic Acid | 1.2 g, 49% | FC(C=1C=C(C(=O)NC=2C=C(C(=O)O)C=CC2)C=CC1)(F)F | C15H10F3NO3
